US04241056
1. 4-Hydroxy-2-methylmercapto-5-nitro-pyrimidine
104.5 gm of S-methyl-isothiourea (0.75 mol) and 53.3 gm (1.333 mol) of sodium hydroxide solution are stirred together for 10 minutes in 350 ml of water. 114.5 gm (0.605 mol) of ethyl-ethoxymethylene-nitroacetate are then slowly added thereto, the temperature being kept at 20° C. by cooling. The precipitate is extracted and washed with a little ice-cold water. It is dissolved in approximately 9 liters of hot water and acidified with concentrated hydrochloric acid with cooling. The precipitated product is extracted and washed with ether.

reactant | S-methyl-isothiourea | 0.75 mol, 104.5 gm | CSC(N)=N | C2H6N2S
reactant | sodium hydroxide | 1.333 mol, 53.3 gm | [OH-].[Na+]
reactant | ethyl-ethoxymethylene-nitroacetate | 0.605 mol, 114.5 gm | C(C)OC(C([N+](=O)[O-])=COCC)=O | C7H11NO5
solvent | water | 350 ml | O | H2O
product | 4-Hydroxy-2-methylmercapto-5-nitro-pyrimidine | OC1=NC(=NC=C1[N+](=O)[O-])SC | C5H5N3O3S
